Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ female with a PMH of HTN
who presents with four days of abdominal pain, admitted for ERCP
evaluation due to concern for choledocolithiasis.

The patient first developed abdominal pain on ___, 3 days
prior to initial presentation to ___, 4 days prior
to this admission. She describes her abdominal pain as 
"band-like" in the RUQ/LUQ and epigastrium. It sudden in onset
and initially was constant, but has since become more
intermittent in nature. She has had associated inability to
tolerate PO's due to nausea and vomiting. 

She initially presented to urgent care and then ___ 
___
on ___ where ultrasound noted dilated CBD with stones. Labs 
were
notable for TBili 8.7 (Direct bili 7.2), AST 330, ALT 673, AP
291, and K 2.8.They started zosyn as empiric antibiotics. Due to
need for ERCP evaluation, she was transferred to ___.

Of note, she was recently seen at urgent care as well and there
was concern for UTI despite not having any symptoms such as
dysuria, urgency, etc. She was started on Keflex for this. 

On arrival to the ED at ___, her initial vitals were 97.8 72
143/87 16 97% RA 

Labs were notable for K 3.3, ALT 495, AST 238, Alk phos 240,
Tbili 4.7, Dbili 2.8 (improving since ___). CBC 
was
wnl with WBC 9.6

No further imaging was done

Patient was just given LR bolus. Given lack of fever or white
count, decision was made in the ED to hold any further
antibiotics.

Decision was made to admit for ERCP evaluation.

I spoke with the ERCP fellow at 8:30 AM and he asked that we 
keep
her NPO at midnight tonight for possible ERCP in the AM, unless
her LFT's continue to improve, at which point we would repeat
RUQUS to ensure the stone had passed. 

On arrival to the floor, the patient corroborates the above. She
reports that her abdominal pain has improved significantly and
her current pain is a ___. She reports that nothing like this
has ever happened to her and other than hypertension, she has
been otherwise healthy.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
Hypertension
Vitamin D deficiency
 
Social History:
___
Family History:
Mother died of pancreatic cancer. Breast cancer
in paternal aunt.
 
Physical Exam:
ADMISSION EXAM:
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM. Negative ___ sign.
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM:
VITALS: ___ 0722 Temp: 98.0 PO BP: 147/85 R Sitting HR: 66 
RR: 16 O2 sat: 97% O2 delivery: RA 
GENERAL: Alert, NAD
EYES: Anicteric, PERRL
ENT: mmm, OP clear
CV: NR/RR, no m/r/g
RESP: CTAB, no wheezes, crackles, or rhonchi
ABD/GI: Soft, ND, NTTP, normoactive bowel sounds
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full 
and symmetric bilaterally in all limbs
VASC/EXT: No ___ edema, 2+ DP pulses
SKIN: No rashes or lesions noted on visible skin
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI, moves all limbs 
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
ADMISSION LABS:
___ 01:30AM BLOOD WBC-9.6 RBC-4.37 Hgb-12.5 Hct-37.5 MCV-86 
MCH-28.6 MCHC-33.3 RDW-13.3 RDWSD-41.9 Plt ___
___ 01:30AM BLOOD Neuts-67.5 ___ Monos-10.9 Eos-1.4 
Baso-0.9 Im ___ AbsNeut-6.48* AbsLymp-1.83 AbsMono-1.05* 
AbsEos-0.13 AbsBaso-0.09*
___ 02:28AM BLOOD ___ PTT-25.3 ___
___ 01:30AM BLOOD Glucose-84 UreaN-14 Creat-0.7 Na-134* 
K-3.6 Cl-98 HCO3-24 AnGap-12
___ 01:30AM BLOOD ALT-495* AST-238* AlkPhos-240* 
TotBili-4.7* DirBili-2.8* IndBili-1.9
___ 01:30AM BLOOD Albumin-3.7
___ 01:30AM BLOOD Lipase-37
___ 01:45AM BLOOD K-3.3*

DISCHARGE LABS:
___ 07:10AM BLOOD WBC-7.5 RBC-4.14 Hgb-11.7 Hct-36.1 MCV-87 
MCH-28.3 MCHC-32.4 RDW-13.4 RDWSD-42.6 Plt ___
___ 07:10AM BLOOD Glucose-95 UreaN-13 Creat-0.6 Na-143 
K-3.8 Cl-106 HCO3-27 AnGap-10
___ 07:10AM BLOOD Albumin-3.5 Calcium-8.9 Phos-3.2 Mg-1.7 
Iron-103
___ 07:10AM BLOOD ALT-282* AST-66* LD(LDH)-204 AlkPhos-185* 
Amylase-36 TotBili-1.7*
___ 07:10AM BLOOD calTIBC-272 Ferritn-233* TRF-209

IMAGING:
CXR portable (___):
IMPRESSION:  
Cardiomediastinal silhouette is within normal limits.  There is 
a focal 5 cm opacity in the right lung apex.  It is more 
confluent than on the prior study and may represent developing 
pneumonia or aspiration.  Follow-up to resolution is 
recommended.  There are no pneumothoraces. 

MRCP (___):
IMPRESSION: 
1. Cholelithiasis without choledocholithiasis.  No obstructing 
CHD or CBD 
calculi noted. 
2. Partially distended gallbladder demonstrates mild wall 
thickening with 
minimal enhancement of the wall of the distal CBD in the 
intrapancreatic 
portion and at the ampulla, both features likely representing 
sequela of 
recent passage of stone. 
3. 1.5 cm left renal superior pole enhancing mass concerning for 
neoplastic etiology.  Urology consult recommended.  No upper 
abdominal lymphadenopathy or thrombus within the renal veins 
identified. 
4. There are innumerable hepatic cysts/biliary hamartomas with 
no suspicious focal liver lesions. 
RECOMMENDATION(S):  Urology consult for the finding described in 
impression 3. 

 
Brief Hospital Course:
SUMMARY:
Ms. ___ is a ___ female with a PMH of HTN who 
presents with four days of abdominal pain, admitted for ERCP 
evaluation due to concern for choledocolithiasis.

HOSPITAL COURSE BY PROBLEM:
# Choledocolithiasis without cholangitis or cholecystitis
Per OSH RUQ ultrasound report, stones and CBD dilation were 
seen. The patient had no fevers, leukocytosis, or other signs of 
infection she was not treated with antibiotics. LFTs improved 
and her abdominal pain resolved without intervention. She had an 
MRCP to evaluate for choledocholithiasis. The MRCP showed 
cholelithiasis without choledocholithiasis so it is likely she 
passed a gallstone. She was instructed to have follow up LFTs 
later this week to ensure her LFTs continue to trend towards 
normal. 

# Left renal lesion
On MRCP she was incidentally found to have a "1.5 cm left renal 
superior pole enhancing mass concerning for neoplastic etiology. 
 Urology consult recommended.  No upper abdominal 
lymphadenopathy or thrombus within the renal veins identified."
The patient was informed of this finding and will follow up with 
her PCP for referral to Urology as an outpatient.

#HTN
Continued home amlodipine and lisinopril.

TRANSITIONAL ISSUES:
[ ] Repeat LFTs this week to ensure they continue to trend down
[ ] Pt needs urology referral for left renal lesion incidentally 
discovered on MRCP

>30 minutes spent on complex discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cephalexin 500 mg PO Q12H 
2. Vitamin D ___ UNIT PO DAILY 
3. Lisinopril 40 mg PO DAILY 
4. amLODIPine 10 mg PO DAILY 

 
Discharge Medications:
1.  amLODIPine 10 mg PO DAILY  
2.  Lisinopril 40 mg PO DAILY  
3.  Vitamin D ___ UNIT PO DAILY  
4.Outpatient Lab Work
Check LFTs (AST, ALT, alk phos, total bilirubin) on or around 
___.
ICD-9 code: ___.2 (obstruction of the bile duct)

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cholelithiasis
Choledocholithiasis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___ were admitted to the hospital for choledocholithiasis (a 
gallstone obstructing the common bile duct). It was initially 
thought that ___ might need an ERCP to remove the stone. However 
___ passed the stone on your own and did not need an ERCP. ___ 
had an MCRP (MRI of the abdomen) that confirmed this. It did 
show that ___ have a lesion on your left kidney that needs 
further investigation. ___ will need a referral to a urologist 
by your primary care doctor for this. 
___ should also get your liver function tests checked this week 
(around ___. 
Best wishes for your continued health.
Take care,
Your ___ Care Team
 
Followup Instructions:
___